US08236976B2
Preparation of (3-tert-Butyl-oxiranyl)-phenyl-methanol (15)
The product was prepared by General procedure T using 50 mg (0.28 mmol) Cy2BH, 35 μL (0.28 mmol) 3,3-dimethyl-1-butyne, 0.39 mL (0.78 mmol, 2.0 M in hexanes) Et2Zn, 2.4 mg (0.01 mmol) (−)-MIB, 25 μL (0.25 mmol) benzaldehyde, 50 μL (0.05 mmol, 1.0 M in hexanes) Ti(OiPr)4, and 10.6 μL (0.05 mmol) (+)-DIPT. The crude product was purified by column chromatography (5% ethyl acetate in hexanes) to afford the title compound in 77% yield (40 mg, 0.19 mmol). threo-diastereomer: White solid. m.p.: 70-73° C. [α]D20=−25.6 (c=0.16, CHCl3); 1H NMR (CDCl3, 500 MHz): δ 0.83 (s, 9H), 2.32 (br s, 1H), 2.82 (d, 1H, J=1.6 Hz), 3.01 (dd, 1H, J=5.3, 1.9 Hz), 4.46 (t, 1H, J=4.4 Hz), 7.26 (t, 1H, J=6.9 Hz), and 7.31-7.36 (m, 4H) ppm; 13C{1H} NMR (CDCl3, 125 MHz): δ 25.7, 30.6, 59.3, 65.1, 74.2, 126.0, 128.0, 128.6, and 140.5 ppm; IR (film): 3413, 3049, 3025, 2955, 2919, 2861, 2355, 1719, 1602, 1478, 1455, 1390, 1360, 1273, 1237, and 1196 cm−1; HRMS-CI m/z 189.1288. [(M−OH)+; calcd for C3H17O: 189.1279]. erythro-diastereomer: White solid. m.p.: 57-59° C.; [α]D20=−27.1 (c=0.31, CHCl3); 1H NMR (CDCl3, 500 MHz): δ 0.82 (s, 9H), 2.20 (br s, 1H), 2.96 (d, 1H, J=2.0 Hz), 3.01 (t, 1H, J=2.7 Hz), 4.82 (br s, 1H), and 7.26-7.32 (m, 5H) ppm; 13 C{1H} NMR (CDCl3, 125 MHz): δ 25.8, 30.4, 58.3, 62.8, 71.2, 126.5, 128.3, 128.6, and 139.8 ppm; IR (film): 3413, 3037, 2955, 2931, 2861, 1719, 1643, 1602, 1449, 1367, and 1327 cm−1; HRMS-CI m/z 189.1288 [(M−OH)+; calcd for C13H17O: 189.1279].

reactant | Cy2BH | 0.28 mmol, 50 mg | B(C1CCCCC1)C1CCCCC1 | C12H23B
reactant | 3,3-dimethyl-1-butyne | 0.28 mmol, 35 μL | CC(C#C)(C)C | C6H10
reactant | Et2Zn | 0.78 mmol, 2.0 M, 0.39 mL | [Zn](CC)CC
reactant | benzaldehyde | 0.25 mmol, 25 μL | C(C1=CC=CC=C1)=O | C7H6O
reactant | (+)-DIPT | 0.05 mmol, 10.6 μL | CC(C)OC(=O)[C@@H]([C@H](C(=O)OC(C)C)O)O | C10H18O6
catalyst | Ti(OiPr)4 | 0.05 mmol, 1.0 M, 50 μL | CC(C)O[Ti](OC(C)C)(OC(C)C)OC(C)C
product | (3-tert-Butyl-oxiranyl)-phenyl-methanol | 77% yield | C(C)(C)(C)C1C(O1)C(O)C1=CC=CC=C1 | C13H18O2
